US04027038
A 52.2 g portion of 7-amino-1,3-naphthalenedisulfonic acid monosodium salt (technical) is suspended in 80 ml of water and 160 ml of 1N sodium hydroxide is added, then 60.0 g of m-nitrobenzoyl chloride is added all at once (a large lump of crystalline solid is separated on addition of the acid chloride). The mixture is diluted with an additional 80 ml of water and a second 160 ml portion of 1N sodium hydroxide is added after brief initial shaking. Shaking is continued and the latter addition of sodium hydroxide and shaking is repeated two more times with intermitent attempt at breaking up any crystalline lumps with a spatula. The resulting mixture is shaken at least one hour after the final base treatment. Since complete solution is not attained, eight 150 ml portions of water are added then two 500 ml portions still without complete solution. The material is allowed to stand overnight and a gel is formed which is further diluted with water and is broken up with a spatula. The mixture is then acidified with 17 ml of concentrated hydrochloric acid and is copiously extracted with ether. The ether is removed after each extraction by vacuum siphoning. The gel is filtered over a period of 2 days in two funnels. The residue is combined and dissolved in boiling water then is filtered. The filtrate (about 710 ml) is diluted with an equal amount of 3A alcohol and is allowed to stand at room temperature overnight. The resulting precipitate is filtered and is washed with several 100 ml portions of 50% ethyl alcohol then is slurried twice with 250 ml portions of absolute ethyl alcohol and finally with two 250 ml portions of ether to give 7-(m-nitrobenzamido)-1,3-naphthalenedisulfonic acid disodium salt which is oven dried at 120° C.

reactant | 7-amino-1,3-naphthalenedisulfonic acid monosodium salt | [Na+].NC1=CC=C2C=C(C=C(C2=C1)S(=O)(=O)[O-])S(=O)(=O)O
reactant | sodium hydroxide | 1N, 160 ml | [OH-].[Na+]
reactant | m-nitrobenzoyl chloride | 60.0 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | hydrochloric acid | 17 ml | Cl | ClH
solvent | water | 80 ml | O | H2O
product | 7-(m-nitrobenzamido)-1,3-naphthalenedisulfonic acid disodium salt | [Na+].[Na+].[N+](=O)([O-])C=1C=C(C(=O)NC2=CC=C3C=C(C=C(C3=C2)S(=O)(=O)[O-])S(=O)(=O)[O-])C=CC1 | InChI=1S/C17H12N2O9S2.2Na/c20-17(11-2-1-3-13(6-11)19(21)22)18-12-5-4-10-7-14(29(23,24)25)9-16(15(10)8-12)30(26,27)28;;/h1-9H,(H,18,20)(H,23,24,25)(H,26,27,28);;/q;2*+1/p-2
